US05854234
4-(1,1-dimethylethyl)-3,4,5,6-tetrahydro-7-methoxy-2H-azepine
A sample of 4-tertbutylcaprolactam (Bader, 2.5 g, 14.8 mmol) was reacted with dimethylsulfate (1.4 mL, 14.8 mmol) by the method of EXAMPLE 69 to yield, after chromatography, 2.7 g of the title material.

reactant | 4-tertbutylcaprolactam | 14.8 mmol, 2.5 g | C(C)(C)(C)C1CCC(=O)NCC1 | C10H19NO
reactant | dimethylsulfate | 14.8 mmol, 1.4 mL | COS(=O)(=O)OC | C2H6O4S
product | 4-(1,1-dimethylethyl)-3,4,5,6-tetrahydro-7-methoxy-2H-azepine | CC(C)(C)C1CCN=C(CC1)OC | C11H21NO
